US04992433
To a stirred solution of 4.5 parts of potassium hydroxide in 50 parts of water was added dropwise a solution of 4 parts of ethyl 4-[3-[1-(6-chloro-3-pyridazinyl)-4-piperidinyl]propoxy]benzoate in 160 parts of ethanol. Upon complete addition, stirring was continued over weekend at room temperature. The precipitated product was filtered off, washed with water and then stirred in water. The whole was neutralized with acetic acid. The product was filtered off, washed with water and converted into the hydrochloride salt in methanol. The crystallized product was filtered off and the filtrate was evaporated. The residue and the crystallized product were combined and stirred into water and sodium hydroxide. The precipitate was filtered off and the filtrate was treated with acetic acid. The precipitated product was filtered off, washed with water and crystallized from N,N-dimethylformamide. The product was filtered off and dried, yielding 0.7 parts (18.6%) of 4-[3-[1-(6-chloro-3-pyridazinyl)-4-piperidinyl]propoxy]benzoic acid; mp. 209.4° C. (comp. 166).

reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | ethyl 4-[3-[1-(6-chloro-3-pyridazinyl)-4-piperidinyl]propoxy]benzoate | ClC1=CC=C(N=N1)N1CCC(CC1)CCCOC1=CC=C(C(=O)OCC)C=C1 | C21H26ClN3O3
solvent | ethanol | C(C)O | C2H6O
product | 4-[3-[1-(6-chloro-3-pyridazinyl)-4-piperidinyl]propoxy]benzoic acid | 18.6% | ClC1=CC=C(N=N1)N1CCC(CC1)CCCOC1=CC=C(C(=O)O)C=C1 | C19H22ClN3O3
